Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Zoloft / Percocet / Vicodin / Betadine / Dermabond / 
chlorhexidine
 
Attending: ___
 
Chief Complaint:
fibroids
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, cystoscopy

 
History of Present Illness:
Patient well known to me for GYN care regarding 
dysmenorrhea/pelvic pain and abnormal uterine 
bleeding/menorrhagia in the setting of known fibroids and
suspected endometriosis with or without adenomyosis.  The 
patient has been effectively treated medically with Lupron.  She 
discontinued Lupron to see if she might be menopause.  While on 
Lupron the AUB/menorrhagia recurred.  An endometrial biopsy was 
obtained on ___ as part of this evaluation which was 
benign.  Lupron was reinitiated per patient request.  Both her 
bleeding and pelvic pain/dysmenorrhea has improved after 
reinitiating the Lupron.

Although her GYN symptoms are improved on the Lupron treatment, 
the patient continues to have concerns regarding her family 
history for ovarian and breast cancer.  After further 
consideration, she has elected to proceed with surgical 
treatment for her fibroids, abnormal bleeding, pelvic pain with 
total hysterectomy.  Patient would like to have her ovaries 
removed at time of hysterectomy given her concerns regarding her 
family history of GYN cancers.

The patient denies any new GYN complaints.  Her medical history 
is unchanged, see below. 
 
Past Medical History:
OBSTETRIC HISTORY: G3 P3 003
1.  ___, full-term vag del female infant 8 lbs. 2 oz.
2.  ___, full-term vag delivery male infant 8 lbs. 10 oz.
3.  ___, full-term vaginal delivery female 8 lbs. 15 oz.

GYNECOLOGIC HISTORY:  
- Menarche age ___, LMP ___ --> now amenorrheic on Lupron
(last injection ___.  
- at baseline (prior to start of lupron ___: Regular 
mensesat
___ day intervals with ___ days of extremely heavy flow c/w

cyclic menorrhagia for the last one ___ years, see HPI.  Reports
significant dysmenorrhea/pelvic pain off Lupron (at baseline).
- since lupron q1mo inj's: occ light spotting x 1d ~q2mo,
typically amenorrheic with notable improvement of pain & blding.
- Last PAP (___): neg SIL, HPV neg. Reports h/o past abnl 
Pap.
- Pt is sexually active, in same-sex relationship, h/o prior
heterosexual relationship, reports 8 total sexual partners
throughout life.
- Contraception: None needed currently
- STD History: H/o HPV, no active issues at this time

MEDICAL PROBLEMS:
1.  Left breast DCIS- dx ___, s/p double mastectomies w/ mult
reconstructive surg's including abdominoplasty; no CT, no RT,
BRCA 1,2 mutation testing neg --> UPDATE: ER+/PR+/pt uncertain
ofHer-2 neu status
2. Family history notable for GYN cancers: father with breast
cancer and daughter with ovarian cancer. 
3.  Depression
4.  Seasonal allergies
5.  H/o Colonic polyps 
6.  H/o HPV
7.  Uterine fibroids, cyclic menorrhagia --> excellent response
to lupron tx.
8.  Dysmenorrhea/pelvic pain (r/o endometriosis, 
+/-adenomyosis),
fam h/ endometrioss --> pp improved on Lupron

SURGICAL HISTORY:
1.  ___, double mastectomies
2.  ___, multiple abd reconstructive surgeries including
abdominoplasty in ___. pt uncertain of details.  
3.  ___, left ankle surgery
4.  ___, right ankle surgery.
5.  ___, excision of right index and middle finger mucous
cyst, Dr. ___, ___.

 
Social History:
___
Family History:
-Breast cancer x1 (patient diagnosed ___ ~age ___, father
diagnosed at age ___.  Patient tested negative for BRCA 
mutation.
-Daughter #1 diagnosed with ovarian cancer at age ___ (stage IC)
-Daughter #2 with endometriosis
-Mother with lung cancer, she was a smoker
-Sister with leukemia diagnosed age ___
-Maternal grandmother with diabetes
 
Physical Exam:
Exam on day of discharge
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
none
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy and cystoscopy. Please see the operative 
report for full details.

She failed 2 trial of voids in the PACU and thus was admitted 
overnight for observation. Immediately post-op, her pain was 
controlled with PO dilaudid, Tylenol and ibuprofen.

On post-operative day 1, her urine output was adequate so a 
repeat trial of void was performed.  She passed her voiding 
trial on POD#1.  Her diet was advanced without difficulty. Given 
her history of alcohol use she was monitored for symptoms of 
withdrawal with a CIWA scale and showed no signs of acute 
alcohol withdrawal during her admission.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
buproprion, Lexapro 10mg, fluticasone,
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H 
Do not take >4000mg (8 tablets) acetaminophen in 24h.  
2. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
___ cause sedation. Do not drive or combine with alcohol. 
3. Ibuprofen 600 mg PO Q6H pain 
Take with food to avoid GI upset. 
4. Docusate Sodium 100 mg PO BID 
Decrease or hold for loose stools. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus
History of breast cancer
Family history of ovarian and breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Please remove the dressings over your incision on 
post-operative day #2 (___).

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___